US08349833B2
A suspension of 4-(6-hydroxy-2-piperidin-1-yl-pyrimidin-4-yl)-piperidine-1-carboxylic acid tert-butyl ester (0.05 mol) in 15% HCl in dioxane (100 mL) was stirred at reflux for 2 hours. After reaction was completed the mixture was cooled, precipitate was filtered, washed with dry ether and dried to obtain 6-piperidin-4-yl-2-piperidin-1-yl-pyrimidin-4-ol, hydrochloride salt (12 g, 81%).

reactant | 4-(6-hydroxy-2-piperidin-1-yl-pyrimidin-4-yl)-piperidine-1-carboxylic acid tert-butyl ester | 0.05 mol | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC(=NC(=C1)O)N1CCCCC1 | C19H30N4O3
reactant | HCl | Cl | ClH
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | 6-piperidin-4-yl-2-piperidin-1-yl-pyrimidin-4-ol, hydrochloride salt | 12 g, 81% | Cl.N1CCC(CC1)C1=CC(=NC(=N1)N1CCCCC1)O | InChI=1S/C14H22N4O.ClH/c19-13-10-12(11-4-6-15-7-5-11)16-14(17-13)18-8-2-1-3-9-18;/h10-11,15H,1-9H2,(H,16,17,19);1H
